US05840917
5-Methylthio-2-thiophenecarbaldehyde (4.48 g) (synthesized in accordance with the method described in Tetrahydron, 41, 3803 (1985)) was dissolved in acetonitrile (20 ml), and sodium dihydrogen phosphate (1.2 g) in water (10 ml) and 30% aqueous hydrogen peroxide (3.5 ml) were added. Further sodium chlorite (3.85 g) in water (10 ml) was added dropwise under ice-cooling. The mixture was stirred at room temperature for 15 hours, and sodium sulfite (1 g) was added. The mixture was alkalified with 1N aqueous sodium hydroxide and extracted with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-diisopropyl ether to give 5-methanesulfonyl-2-thiphenecarboxylic acid (1.73 g) as crystals.

reactant | 5-Methylthio-2-thiophenecarbaldehyde | 4.48 g | CSC1=CC=C(S1)C=O | C6H6OS2
reactant | sodium dihydrogen phosphate | 1.2 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 3.85 g | Cl(=O)[O-].[Na+]
reactant | sodium sulfite | 1 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | water | 10 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | hydrogen peroxide | 3.5 ml | OO | H2O2
product | 5-methanesulfonyl-2-thiphenecarboxylic acid | 1.73 g | CS(=O)(=O)C1=CC=C(S1)C(=O)O | C6H6O4S2
